US08314112B2
Step A: 3-(3,5-Dibromo-pyridin-4-yl)-acrylic acid ethyl ester
3,5-Dibromo-pyridine-4-carbaldehyde (Sigma-Aldrich, St. Louis, USA) (1 eq, 15.1 mmol, 4.0 g) is suspended in EtOH (50 ml). Then triethyl phosphonoacetate (Sigma-Aldrich, St. Louis, USA) (1.1 eq, 16.6 mmol, 3.32 ml) and sodium ethoxide (21% in EtOH, 1.1 eq, 16.6 mmol, 6.12 ml) are added. The resulting mixture is stirred for 15 min at r.t., before adding sat. aqueous NaHCO3 solution. The mixture is extracted with DCM, and the organic layer is dried with MgSO4 and concentrated in vacuo. Purification by column chromatography (hexane/EtOAc) yields the title compound; [M+H]+=336.

reactant | 3,5-Dibromo-pyridine-4-carbaldehyde | 15.1 mmol, 4.0 g, 1 eq | BrC=1C=NC=C(C1C=O)Br | C6H3Br2NO
reactant | sodium ethoxide | 16.6 mmol, 6.12 ml, 1.1 eq | [O-]CC.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | EtOH | 50 ml | CCO | C2H6O
product | 3-(3,5-Dibromo-pyridin-4-yl)-acrylic acid ethyl ester | C(C)OC(C=CC1=C(C=NC=C1Br)Br)=O | C10H9Br2NO2
